US05286721
To a stirred solution of sodium 1,2,3-thiadiazol-5-thiolate (15 g) in dichloromethane (150 ml) and dimethylformamide (20 ml) was added chloroacetonitrile (4.76 ml) at room temperature. After stirring overnight, the precipitate was filtered off and the filtrate was poured into the mixture of water (30 ml) and dichloromethane (300 ml). The organic layer was separated, washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (450 ml) eluting with ethyl acetate to give (1,2,3-thiadiazol-5-yl)thioacetonitrile (10 g).

reactant | sodium 1,2,3-thiadiazol-5-thiolate | 15 g | S1N=NC=C1[S-].[Na+]
reactant | chloroacetonitrile | 4.76 ml | ClCC#N | C2H2ClN
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (1,2,3-thiadiazol-5-yl)thioacetonitrile | 10 g | S1N=NC=C1SCC#N | C4H3N3S2
